US07238808B2
4-[8-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-ylethynyl]-benzenesulfonamide
The title compound was prepared from 3-ethynyl-8-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine (example C.18) (354 mg, 1.0 mmol) and 4-bromobenzenesulfonamide (230 mg, 1.0 mmol) according to general procedure II. Obtained as an off-white (120 mg, 23%). MS (ISP) 511.3 [(M+H)+]; mp 278–280° C.

reactant | 3-ethynyl-8-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine | 1.0 mmol, 354 mg | C(#C)C1=CN=C2N1C=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C17H8F6N2
reactant | 4-bromobenzenesulfonamide | 1.0 mmol, 230 mg | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
product | 4-[8-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-ylethynyl]-benzenesulfonamide | FC(C=1C=2N(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(=CN2)C#CC2=CC=C(C=C2)S(=O)(=O)N)(F)F | C23H13F6N3O2S
